US08461179B1
3-(5-amino-4-fluoro-2-methylphenyl)-7-chloro-1-methyl-1,6-naphthyridin-2(1H)-one (1.36 g, 4.28 mmol, 1.00 eq), 4-methoxy-N-methylbenzylamine (0.971 g, 6.42 mmol, 1.50 eq) and DBU (0.960 mL, 6.42 mmol, 1.50 eq) were combined in NMP (20 mL) and heated at 180° C. under Ar overnight. The mixture was cooled to RT and poured onto H2O (200 mL). The resulting solids were collected by filtration, rinsed very well with H2O, dried on the filter to dampness and then dissolved in EtOAc. The solution was dried (MgSO4), filtered and evaporated to afford 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-4-fluoro-2-methylphenyl)-1-methyl-1,6-naphthyridin-2(1H)-one (1.86 g, 100% yield) as a brittle brown foam which was used as is in the next reaction. 1H NMR (400 MHz, DMSO-d6): δ 8.45 (s, 1H), 7.63 (s, 1H), 7.16 (d, J=8.8 Hz, 2H), 6.85 (d, J=8.8 Hz, 2H), 6.86-6.82 (m, 1H), 6.57 (d, J=9.6 Hz, 1H), 6.29 (s, 1H), 4.88 (br s, 2H), 4.85 (s, 2H), 3.69 (s, 3H), 3.52 (s, 3H), 3.07 (s, 3H), 1.94 (s, 3H); MS (ESI) m/z: 433.3 [M+H]+.

reactant | 3-(5-amino-4-fluoro-2-methylphenyl)-7-chloro-1-methyl-1,6-naphthyridin-2(1H)-one | 4.28 mmol, 1.36 g, 1.00 eq | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)Cl)C)=O)C)F | C16H13ClFN3O
reactant | 4-methoxy-N-methylbenzylamine | 6.42 mmol, 0.971 g, 1.50 eq | COC1=CC=C(CNC)C=C1 | C9H13NO
reactant | DBU | 6.42 mmol, 0.960 mL, 1.50 eq | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-4-fluoro-2-methylphenyl)-1-methyl-1,6-naphthyridin-2(1H)-one | 1.86 g, 100% yield | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C)=O)C2=C(C=C(C(=C2)N)F)C)C)C=C1 | C25H25FN4O2
